US06492403B1
To a solution of 500 mg (3.96 mmol) of 2-acetyl thiophene (Aldrich Chemical Co.) dissolved in 20 mL of CHCl3, was added 1 drop of 30% HBr/CH3COOH (Aldrich Chemical Co.) followed by 3.96 mmol (633 mg; 204 μL) of bromine (Aldrich Chemical Co.) added dropwise over 30 min. The reaction was allowed to stir for 1 h. The solution was concentrated to an oil and dried in vacuo. The crude product was purified on 1 mm silica prep plates eluting with neat CH2Cl2 to obtain 300 mg (37% yield) of 2-bromo-1-(2-thienyl)ethan-1-one. 1H-NMR (CDCl3; 300 MHz) δ 7.8 (m, 2H), 7.18 (m, 1H), 4.37 (s, 2H).

reactant | 2-acetyl thiophene | 3.96 mmol, 500 mg | C(C)(=O)C=1SC=CC1 | C6H6OS
reactant | bromine | 3.96 mmol, 204 μL, 633 mg | BrBr | Br2
solvent | CHCl3 | 20 mL | C(Cl)(Cl)Cl | CHCl3
catalyst | HBr CH3COOH | 1 drop | Br.CC(=O)O
product | 2-bromo-1-(2-thienyl)ethan-1-one | 300 mg, 37% yield | BrCC(=O)C=1SC=CC1 | C6H5BrOS
